US05258405
N-Cycloheptyl-[(1-fluorenyl)methyl]amine
To N-cycloheptyl-1-fluorenecarboxamide (1.00 g, 3.28 mmol) was added a 1M solution of borane-tetrahydrofuran complex in THF (13 ml, 13 mmol) and the mixture was heated at 60° C. for 7.5 hrs. To this reaction mixture were added methanol (0.4 ml) and concentrated hydrochloric acid (3 ml) and the mixture was heated at 60° C. for 0.5 hr. Then, 1N aqueous sodium hydroxide solution (50 ml) was added at room temperature and the mixture was extracted with chloroform (80 ml×2 times). The organic layer was taken, dried and concentrated. To the residue were added ether (30 ml) and 4N hydrogen chloride in ethyl acetate (2 ml) and the resulting white solid was collected by filtration. This solid was dissolved in chloroform (80 ml) and washed with 1N aqueous sodium hydroxide solution (80 ml×1). The organic layer was dried and concentrated to give 0.90 g of a pale yellow solid.

reactant | N-cycloheptyl-1-fluorenecarboxamide | 3.28 mmol, 1.00 g | C1(CCCCCC1)NC(=O)C1=CC=CC=2C3=CC=CC=C3CC12 | C21H23NO
reactant | THF | 13 mmol, 13 ml | C1CCOC1 | C4H8O
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
solvent | methanol | 0.4 ml | CO | CH4O
product | N-Cycloheptyl-[(1-fluorenyl)methyl]amine | 0.90 g | C1(CCCCCC1)NCC1=CC=CC=2C3=CC=CC=C3CC12 | C21H25N
